US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino][1,3]thiazolo[5,4-b]pyridin-5-yl}oxy)phenyl]-1-methyl-1H-imidazole-5-carboxamide
In the same manner as in Example 101-4 and using N-[5-(3-aminophenoxy)[1,3]thiazolo[5,4-b]pyridin-2-yl]cyclopropanecarboxamide (124 mg, 0.280 mmol), 1-methyl-1H-imidazole-5-carboxylic acid (71.9 mg, 0.570 mmol), HATU (260 mg, 0.684 mmol), N,N-diisopropylethylamine (298 μL, 1.71 mmol) and N,N-dimethylformamide (4 mL) as starting materials, the title compound (107 mg, 65%) was obtained as a white solid.

reactant | N-[5-(3-aminophenoxy)[1,3]thiazolo[5,4-b]pyridin-2-yl]cyclopropanecarboxamide | 0.280 mmol, 124 mg | NC=1C=C(OC2=CC=C3C(=N2)SC(=N3)NC(=O)C3CC3)C=CC1 | C16H14N4O2S
reactant | 1-methyl-1H-imidazole-5-carboxylic acid | 0.570 mmol, 71.9 mg | CN1C=NC=C1C(=O)O | C5H6N2O2
reactant | HATU | 0.684 mmol, 260 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.71 mmol, 298 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino][1,3]thiazolo[5,4-b]pyridin-5-yl}oxy)phenyl]-1-methyl-1H-imidazole-5-carboxamide | 107 mg, 65% | C1(CC1)C(=O)NC=1SC2=NC(=CC=C2N1)OC=1C=C(C=CC1)NC(=O)C1=CN=CN1C | C21H18N6O3S
